US07091215B2
7-Bromo-2-ethyl-4-methoxy-3-nitropyrazolo[1,5-a]pyridine
After adding nitronium tetrafluoroborate (176 mg) to a solution of 7-bromo-2-ethyl-4-methoxypyrazolo[1,5-a]pyridine (282 mg) in acetonitrile (20 mL) at 0° C., the mixture was stirred for 20 minutes. Upon completion of the reaction, water was added, extraction was performed with ethyl acetate, the extract was washed with saturated aqueous sodium hydrogencarbonate and brine and dried over magnesium sulfate, and the solvent was distilled off under reduced pressure. The residue was subjected to silica gel column chromatography (20 g), and the title compound (159 mg) was obtained from the n-hexane:ethyl acetate (3:1) fraction as yellow crystals.

reactant | nitronium tetrafluoroborate | 176 mg | F[B-](F)(F)F.O=[N+]=O
reactant | 7-bromo-2-ethyl-4-methoxypyrazolo[1,5-a]pyridine | 282 mg | BrC1=CC=C(C=2N1N=C(C2)CC)OC | C10H11BrN2O
reactant | water | O | H2O
solvent | acetonitrile | 20 mL | C(C)#N | C2H3N
product | 7-Bromo-2-ethyl-4-methoxy-3-nitropyrazolo[1,5-a]pyridine | 159 mg | BrC1=CC=C(C=2N1N=C(C2[N+](=O)[O-])CC)OC | C10H10BrN3O3
